US08030487B2
Synthesis of 3-Bromo-N-(2-Pyrrolidin-1-yl-ethyl)-Benzenesulfonamide (Intermediate 38)
A solution of 3-bromobenzene-1-sulfonyl chloride (1.29 g, 5.05 mmol) in 25 mL THF was charged with 2-(pyrrolidin-1-yl)ethanamine (0.6 mL, 5.05 mmol), and TEA (2.2 mL, 15.7 mmol) and allowed to stir for 1 hr. The reaction was quenched with 25 mL NaHCO3 (sat., aq.) and extracted with DCM (2×100 mL). The combined organic layers were washed with brine (20 mL), dried (Na2SO4), filtered, and concentrated. The residue was purified by gradient flash chromatography (0 to 20% MeOH in DCM) to afford the title compound as a white solid (816 mg, 48%).

reactant | 3-bromobenzene-1-sulfonyl chloride | 5.05 mmol, 1.29 g | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 2-(pyrrolidin-1-yl)ethanamine | 5.05 mmol, 0.6 mL | N1(CCCC1)CCN | C6H14N2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-Bromo-N-(2-Pyrrolidin-1-yl-ethyl)-Benzenesulfonamide | 816 mg, 48% | BrC=1C=C(C=CC1)S(=O)(=O)NCCN1CCCC1 | C12H17BrN2O2S
